US08580780B2
2-(tert-Butyldimethylsilyloxymethyl)-5-(1-hydroxy-3-methyl-butyl)-pyridine:
Dissolve 5-bromo-2-(tert-butyldimethylsilyloxymethyl)-pyridine (0.5 g, 1.654 mmol, prepared by following the procedure described in J. Med. Chem. 1987, 30, 871-880) in anhydrous THF (12 mL). Cool the solution to −78° C., add n-BuLi (1.14 mL, 1.819 mmol, 1.6M solution in hexane) and stir at this temperature for 40 min. Add slowly isovaleryl aldehyde (0.284 mL, 2.646 mmol) and stir the mixture for 5 h at −78° C. Add additional isovaleryl aldehyde (0.089 mL, 0.827 mmol) and stir the mixture for 1.5 h at −78° C. Add ammonium chloride at −78° C. and warm the mixture to room temperature. Add EtOAc and extract the aqueous layer twice with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (4:1) to give the desired intermediate as oil (330 mg, 64%). GC-MS m/z: 309 (M+).

reactant | 5-bromo-2-(tert-butyldimethylsilyloxymethyl)-pyridine | BrC=1C=CC(=NC1)CO[Si](C)(C)C(C)(C)C | C12H20BrNOSi
reactant | n-BuLi | 1.819 mmol, 1.6M, 1.14 mL | [Li]CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-(tert-Butyldimethylsilyloxymethyl)-5-(1-hydroxy-3-methyl-butyl)-pyridine | 330 mg, 64% | [Si](C)(C)(C(C)(C)C)OCC1=NC=C(C=C1)C(CC(C)C)O | C17H31NO2Si
